US07683185B2
6-(4-Chlorophenylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide (7b).
To a solution of the 6-(4-chlorophenylsulfanyl)-hexa-2,4-dienoic acid methyl ester (0.44 g, 1.64 mmol) in distilled THF (9.0 mL) containing 50% aqueous hydroxylamine (1.0 ml, 15.2 mmol) was added at 0° C. a solution of potassium hydroxide in methanol (1M, 2.6 mL, 2.6 mmol) over a period of 30 minutes. After stirring at 0° C. for 1 h, distilled water (9.0 mL) was added and the mixture was made neutral by dropwise addition of concentrated hydrochloric acid (10 M) at 0° C. The aqueous solution was extracted with ethyl acetate (3×30 mL) and the combined extracts were dried over anhydrous MgSO4, and evaporated to dryness. The residue was recrystallised from acetone to give the title compound (0.21 g, 48%) as a pale brown powder, mp 120-122° C. (decomp).

reactant | 6-(4-chlorophenylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 1.64 mmol, 0.44 g | COC(C=CC=CCSC1=CC=C(C=C1)Cl)=O | C13H13ClO2S
reactant | hydroxylamine | 15.2 mmol, 1.0 ml | NO | H3NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 2.6 mmol, 1M, 2.6 mL | CO | CH4O
solvent | THF | 9.0 mL | C1CCOC1 | C4H8O
product | 6-(4-Chlorophenylsulfanyl)-hexa-2,4-dienoic acid hydroxyamide | 0.21 g, 48% | ONC(C=CC=CCSC1=CC=C(C=C1)Cl)=O | C12H12ClNO2S
